US07476666B2
Step 1: 3-Benzyloxy-5-methyl-4-oxo-2-[(1,2,3,4-tetrahydro-isoquinolin-2-yl)carbonyl]-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine
To a solution of 3-benzyloxy-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylic acid (60 mg, 0.199 mmol) in DMF (2 mL) under an atmosphere of nitrogen was added HATU (152 mg, 0.398 mmol) and 1,2,3,4-tetrahydroisoquinoline (32 mg, 0.239 mmol). The reaction was stirred at room temperature for 1 hour. Purification by reverse phase chromatography on a C-18 column using a gradient elution of 95-5% H2O (0.1% TFA)/CH3CN (0.1% TFA) and collection and concentration of the appropriate fractions afforded the title product. 1H NMR (400 MHz, CDCl3) δ 7.69-7.58 (m, 1H), 7.53-7.48 (m, 1H), 7.33-7.30 (m, 1H), 7.22-7.10 (m, 4H), 7.08-7.06 (d, 1H), 6.94-6.92 (d, 1H), 5.24-5.22 (d, 2H), 4.81 (s, 1H), 4.60 (s, 1H), 4.39-4.35 (t, 2H), 3.90-3.87 (m, 1H), 3.78-3.75 (t, 2H), 3.64-3.61 (t, 1H), 3.18 (s, 3H), 2.93-2.90 (t, 1H), 2.82-2.79 (t, 1H); ES MS (M+1)=417.

reactant | 3-benzyloxy-5-methyl-4-oxo-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine-2-carboxylic acid | 0.199 mmol, 60 mg | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2)C)=O)C(=O)O | C15H15N3O4
reactant | HATU | 0.398 mmol, 152 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 1,2,3,4-tetrahydroisoquinoline | 0.239 mmol, 32 mg | C1NCCC2=CC=CC=C12 | C9H11N
solvent | DMF | 2 mL | CN(C)C=O | C3H7NO
product | 3-Benzyloxy-5-methyl-4-oxo-2-[(1,2,3,4-tetrahydro-isoquinolin-2-yl)carbonyl]-4,5,6,7-tetrahydropyrazolo[1,5-a]pyrazine | C(C1=CC=CC=C1)OC=1C(=NN2C1C(N(CC2)C)=O)C(=O)N2CC1=CC=CC=C1CC2 | C24H24N4O3
